US07446127B2
tert-butyl-7-[2-(5-Methyl-2-phenyl-4-oxazolyl)ethoxy]chromane-3-carboxylate (5.2 g, 11.95 mmol) was dissolved in 25 ml of formic acid and heated at 60° C. for 12 hrs. Formic acid was removed in vacuum pump and ether (25 ml) was added and heated for 10 minutes. The resultant suspension was cooled at −20° C. for 1 hr and filtered. The solid product was washed with 20 ml of diethyl ether and dried to give the compound 7-[2-(5-Methyl-2-phenyl-4-oxazolyl)ethoxy]chromane-3-carboxylic acid as white powder (3.8 g, 84%).

reactant | tert-butyl-7-[2-(5-Methyl-2-phenyl-4-oxazolyl)ethoxy]chromane-3-carboxylate | 11.95 mmol, 5.2 g | C(C)(C)(C)OC(=O)C1COC2=CC(=CC=C2C1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C26H29NO5
solvent | formic acid | 25 ml | C(=O)O | CH2O2
product | 7-[2-(5-Methyl-2-phenyl-4-oxazolyl)ethoxy]chromane-3-carboxylic acid | 3.8 g, 84% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C2CC(COC2=C1)C(=O)O | C22H21NO5
